US04940710
A 6 g portion of 2-chloromethyl-1,4-bis(phenylmethyl)piperazine was dissolved in 20 ml of dioxane. To this was added 3.14 g of potassium carbonate and 68 ml of 40% aqueous dimethylamine. The mixture was stirred in a sealed pressure bottle at 80° C. for 18 hours and then taken to dryness in vacuo. The gummy residue was mixed with water and dichloromethane. The aqueous layer was washed twice with dichloromethane. The organic solutions were combined, dried, filtered and evaporated, giving 6.23 g of 2-dimethylaminomethyl-1,4-bis(phenylmethyl)piperazine as a gum.

reactant | 2-chloromethyl-1,4-bis(phenylmethyl)piperazine | ClCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23ClN2
reactant | potassium carbonate | 3.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine | 68 ml | CNC | C2H7N
reactant | water | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-dimethylaminomethyl-1,4-bis(phenylmethyl)piperazine | 6.23 g | CN(C)CC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H29N3
